US05455258
To a solution of D-threonine (5.0 g, 0.042 mol) in water (50 mL) and dioxane (50 mL) containing triethylamine (8.9 mL, 0.063 mol) at room temperature is added 4-methoxybenzenesulfonyl chloride (9.54 g, 0.046 mol). The reaction mixture is stirred overnight at room temperature. Most of the dioxane is evaporated off, and the pH is adjusted to pH=2 with 1N HCl. The mixture is then extracted with ethyl acetate. The combined organic extracts are washed with brine, dried (Na2SO4), and concentrated in vacuo to provide N-[4-methoxybenzenesulfonyl]-(D)-threonine.

reactant | D-threonine | 0.042 mol, 5.0 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | triethylamine | 0.063 mol, 8.9 mL | C(C)N(CC)CC | C6H15N
reactant | 4-methoxybenzenesulfonyl chloride | 0.046 mol, 9.54 g | COC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO3S
solvent | water | 50 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-[4-methoxybenzenesulfonyl]-(D)-threonine | COC1=CC=C(C=C1)S(=O)(=O)N[C@H]([C@@H](O)C)C(=O)O | C11H15NO6S
